US07504408B2
i) Preparation of 5-chloro-7-[(trimethylsilyl)ethynyl]-1,3-benzodioxol-4-amine
Bis(triphenylphosphine)palladium(II) chloride (0.283 g), cuprous iodide (0.115 g) and diisopropylamine (0.57 ml) were added to a stirred solution of 5-chloro-7-iodo-1,3-benzodioxol-4-amine (0.600 g) and trimethylsilylacetylene (0.57 ml) in ethyl acetate (10 ml) cooled to −20° C. under a nitrogen atmosphere. The mixture was stirred for 4 hr at ambient temperature. The reaction mixture was filtered through Celite and the crude product in solution was then absorbed onto silica and purified by column chromatography using 20% dichloromethane in isohexane as eluent. There was thus obtained the title compound as an oil (0.560 g). NMR Spectrum: (CDCl3) 0.24 (s 9H), 4.03 (s, 2H), 6.02 (s, 2H), 6.91 (s, 1H); Mass Spectrum: M+H+ 268 and 270.

reactant | diisopropylamine | 0.57 ml | C(C)(C)NC(C)C | C6H15N
reactant | 5-chloro-7-iodo-1,3-benzodioxol-4-amine | 0.600 g | ClC1=C(C2=C(OCO2)C(=C1)I)N | C7H5ClINO2
reactant | trimethylsilylacetylene | 0.57 ml | C[Si](C)(C)C#C | C5H10Si
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.283 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-chloro-7-[(trimethylsilyl)ethynyl]-1,3-benzodioxol-4-amine | 0.560 g | ClC1=C(C2=C(OCO2)C(=C1)C#C[Si](C)(C)C)N | C12H14ClNO2Si
